US04335048
5 -(2-Hydroxypropoxy)-2-methyl-4-oxo-8-propyl-4H-1-benzopyran (2.6 g) and selenium dioxide (1.1 g) were dissolved in 20% aqueous dioxan (150 ml) and heated at reflux for 24 hours. The suspension was filtered and the dioxan removed in vacuo. The residue was dissolved in chloroform (100 ml) and the chloroform solution extracted with saturated aqueous sodium bicarbonate. The bicarbonate extract was acidified with dilute hydrochloric acid and the resulting precipitate filtered off, washed with water and dried. Crystallisation from acetone gave 5-(2-hydroxypropoxy-4H-1-benzopyran-2-carboxylic acid. mp 135°-137° C.

reactant | 5 -(2-Hydroxypropoxy)-2-methyl-4-oxo-8-propyl-4H-1-benzopyran | 2.6 g | OC(COC1=CC=C(C2=C1C(C=C(O2)C)=O)CCC)C | C16H20O4
reactant | selenium dioxide | 1.1 g | [Se](=O)=O | O2Se
reactant | dioxan | 150 ml | O1CCOCC1 | C4H8O2
product | 2-hydroxypropoxy-4H-1-benzopyran-2-carboxylic acid | OC(COC1=C(OC2=C(C1)C=CC=C2)C(=O)O)C | C13H14O5
